US09388153B2
Para-toluenesulfonic acid (76 mg, 0.43 mmol) was added to a solution of 5-(3-fluorophenyl)benzofuran-3(2H)-one (212 mg, 0.935 mmol) and isopropyl 2-(3-aminophenoxyl)acetate (202 mg, 0.964 mmol) in methanol (4 mL) at 25° C. The reaction was heated in an 80° C. oil bath and allowed to stir overnight for approximately 16 hours. The reaction was cooled to room temperature and concentrated in vacuo. The mixture was then dissolved in concentrated acetic acid (2 mL) and cooled to 0° C. Sodium cyanoborohydride (386 mg, 6.13 mmol) was added and the solution was stirred for 4 hours at room temperature. The reaction was quenched with saturated aqueous NaHCO3 (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The resulting crude residue was purified by combiflash (12 g column, hexanes→100% ethyl acetate/hexanes, gradient) to afford 22 mg (6%) of isopropyl 2-(3-((5-(3-fluorophenyl)-2,3-dihydrobenzofuran-3-yl)amino)phenoxy)acetate.

reactant | Para-toluenesulfonic acid | 0.43 mmol, 76 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 5-(3-fluorophenyl)benzofuran-3(2H)-one | 0.935 mmol, 212 mg | FC=1C=C(C=CC1)C=1C=CC2=C(C(CO2)=O)C1 | C14H9FO2
reactant | isopropyl 2-(3-aminophenoxyl)acetate | 0.964 mmol, 202 mg | NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C11H15NO3
reactant | Sodium cyanoborohydride | 6.13 mmol, 386 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | isopropyl 2-(3-((5-(3-fluorophenyl)-2,3-dihydrobenzofuran-3-yl)amino)phenoxy)acetate | 22 mg, 6% | FC=1C=C(C=CC1)C=1C=CC2=C(C(CO2)NC=2C=C(OCC(=O)OC(C)C)C=CC2)C1 | C25H24FNO4
